US08383642B2
3-(4-Hydroxyphenyl)hex-4-ynoic acid
A solution of 5-[1-(4-hydroxyphenyl)but-2-ynyl]-2,2-dimethyl-1,3-dioxane-4,6-dione (20 g, 69.44 mmol) in pyridine-water (5:1, 390 mL) is heated at reflux for 16 hours and after cooling is acidified to pH ˜2 with 5 N HCl and extracted with EtOAc (2×300 mL). The combined extracts are washed with saturated brine, dried over MgSO4, filtered, and concentrated to give an off-white solid (13.5 g, 96%). ESI/MS m/z 203 (M−H)−.

reactant | 5-[1-(4-hydroxyphenyl)but-2-ynyl]-2,2-dimethyl-1,3-dioxane-4,6-dione | 69.44 mmol, 20 g | OC1=CC=C(C=C1)C(C#CC)C1C(OC(OC1=O)(C)C)=O | C16H16O5
reactant | HCl | 5 N | Cl | ClH
solvent | pyridine water | 390 mL | N1=CC=CC=C1.O
product | 3-(4-Hydroxyphenyl)hex-4-ynoic acid | 13.5 g, 96% | OC1=CC=C(C=C1)C(CC(=O)O)C#CC | C12H12O3
